US07939528B2
To a slurry of (5-bromo-2,3-dihydro-1H-inden-2-yl)amine hydrobromide (5.61 g; 19.1 mmol; prepared according to Prashad, M; Hu, B.; Har, D.; Repic, O.; Blacklock, T.; Acemoglub, M. Adv. Synth. Catal. 2001, 343 (5), 461) in CH2Cl2 (40 mL) was added triethylamine (5.8 mL, 42 mmol) in one portion. The mixture was stirred 15 min and then di-tert-butyl dicarbonate (4.58 g; 21 mmol) was added in one portion. After 2 hours the reaction mixture was adsorbed onto a minimal amount of silica gel and purified by silica gel flash chromatography (ethyl acetate/hexanes), affording 5.94 g of 1,1-dimethylethyl (5-bromo-2,3-dihydro-1H-inden-2-yl)carbamate as a colorless solid. 1H NMR (400 MHz, DMSO-d6) delta ppm 1.39 (s, 9H), 2.73 (m, 2H), 3.08 (m, 2H), 4.20 (app. sext, J=7.0 Hz, 1H), 7.14 (d, J=8.2 Hz, 1H), 7.19 (br. d, J=6.8 Hz, 1H), 7.30 (partially resolved dd, J=8.0, ˜1.9 Hz, 1H), 7.38 (m, 1H).

reactant | (5-bromo-2,3-dihydro-1H-inden-2-yl)amine hydrobromide | Br.BrC=1C=C2CC(CC2=CC1)N
reactant | Har | N[C@@H](CCCCNC(N)=N)C(=O)O | C7H16N4O2
reactant | triethylamine | 42 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 21 mmol, 4.58 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (5-bromo-2,3-dihydro-1H-inden-2-yl)carbamate | 5.94 g | BrC=1C=C2CC(CC2=CC1)NC(OC(C)(C)C)=O | C14H18BrNO2
